US05627215
(E)-1,14-Di-propargyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
0.97 g (1.43 mmol) of (E)-1,14-di-propargyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 15 ml of 3N methanolic hydrochloric acid are reacted analogously to Example 1. Recrystallisation of the crude product from methanol/water yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ2.07-2.19(m,4H); 3.01(t,2H); 3.15-3.30(m,8H); 3.77(d,4H); 3.96(d,4H); 6.05-6.07(m,2H).

reactant | (E)-1,14-di-propargyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 1.43 mmol, 0.97 g | C(C#C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC#C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H60N4O8
reactant | hydrochloric acid | 3N, 15 ml | Cl | ClH
product | (E)-1,14-Di-propargyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C#C)NCCCNC\C=C\CNCCCNCC#C | InChI=1S/C16H28N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h1-2,5-6,17-20H,7-16H2;4*1H/b6-5+;;;;
